US06573274B1
N-tert-Butyl-4-acetoxybutanesulfonamide (425 mg) was dissolved in trifluoroacetic acid (4.3 ml), and the mixture was stirred at room temperature for 4 hr and concentrated to dryness under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=49:1) to give 4-acetoxybutanesulfonamide (347 mg) as a brown oil.

reactant | N-tert-Butyl-4-acetoxybutanesulfonamide | 425 mg | C(C)(C)(C)NS(=O)(=O)CCCCOC(C)=O | C10H21NO4S
solvent | trifluoroacetic acid | 4.3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-acetoxybutanesulfonamide | 347 mg | C(C)(=O)OCCCCS(=O)(=O)N | C6H13NO4S
